US06242600B1
(S)-4-(2,4-Dimethoxycarbonylmethyl-3-oxopiperazin-1-yl)-4-oxobutanoic Acid
To a mixture of (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid methyl ester (3.67 g) and succinic anhydride (1.5 g) in dimethylformamide (25 ml) was added 4-dimethylaminopyridine (0.2 g) and the solution was stirred for 3 hours at 60° C. The reaction mixture was concentrated under reduced pressure and the concentrate was purified by means of CHP-20 column chromatography (H2O→50% acetonitrile aqueous solution) to give the titled compound (3.44 g) as a colorless oily substance.

reactant | (S)-(3-methoxycarbonylmethyl-2-oxopiperazin-1-yl)acetic acid methyl ester | 3.67 g | COC(CN1C([C@@H](NCC1)CC(=O)OC)=O)=O | C10H16N2O5
reactant | succinic anhydride | 1.5 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-4-(2,4-Dimethoxycarbonylmethyl-3-oxopiperazin-1-yl)-4-oxobutanoic Acid | 3.44 g | COC(=O)C[C@@H]1N(CCN(C1=O)CC(=O)OC)C(CCC(=O)O)=O | C14H20N2O8
